US08609692B2
2,3-difluorophenyl acetate
To a solution of 2,3-difluorophenol (30.0 g, 231 mmol) and pyridine (18.6 mL, 231 mmol) in dichloromethane (230 mL) at 0° C. was carefully added acetyl chloride (16.4 mL, 231 mmol). The reaction was allowed to warm to ambient temperature and stirred for 16 h. The reaction mixture was then diluted with dichloromethane (100 mL), washed with 1N aqueous hydrochloric acid (2×50 mL) and brine (75 mL), and concentrated to produce 41.0 g (100%) of the title compound. MS (DCI/NH3) m/z 190 (M+NH4)+.

reactant | 2,3-difluorophenol | 231 mmol, 30.0 g | FC1=C(C=CC=C1F)O | C6H4F2O
reactant | pyridine | 231 mmol, 18.6 mL | N1=CC=CC=C1 | C5H5N
reactant | acetyl chloride | 231 mmol, 16.4 mL | C(C)(=O)Cl | C2H3ClO
solvent | dichloromethane | 230 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 2,3-difluorophenyl acetate | 41.0 g, 100% | C(C)(=O)OC1=C(C(=CC=C1)F)F | C8H6F2O2
